US07288544B2
5) Synthesis of 4-(3,5-dichlorophenyl)-6-ethyl-2-(methylthio)-N-(3-phenylpropyl)-5-pyrimidinecarboxamide:
183 mg (0.533 mmol) of 4-(3,5-dichlorophenyl)-6-ethyl-2-(methylthio)-pyrimidine-5-carboxylic acid and 86.5 mg (0.640 mmol) of phenylpropylamine were dissolved in 10 ml of dichloromethane. 153 mg (0.800 mmol) of 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (hereinafter referred to as WSC hydrochloride) was added under cooling with ice and stirred at room temperature overnight. After concentration under reduced pressure, the reaction mixture was diluted with ethyl acetate. The reaction mixture was washed with 1 N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1 to 1/1) to obtain the title compound.

reactant | 4-(3,5-dichlorophenyl)-6-ethyl-2-(methylthio)-pyrimidine-5-carboxylic acid | 0.533 mmol, 183 mg | ClC=1C=C(C=C(C1)Cl)C1=NC(=NC(=C1C(=O)O)CC)SC | C14H12Cl2N2O2S
reactant | phenylpropylamine | 0.640 mmol, 86.5 mg | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 0.800 mmol, 153 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | WSC hydrochloride | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(3,5-dichlorophenyl)-6-ethyl-2-(methylthio)-N-(3-phenylpropyl)-5-pyrimidinecarboxamide | ClC=1C=C(C=C(C1)Cl)C1=NC(=NC(=C1C(=O)NCCCC1=CC=CC=C1)CC)SC | C23H23Cl2N3OS
